*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.20e-03[uF]/100[V]
* Murata P/N :GGM155R72A222KA37
* Property : C = 2.20e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GGM155R72A222KA37 Port1 Port2
C01 Port1 N01 2.15e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.84e-10
R03 N02 N03 1.50e-01
C04 N03 N04 2.65e-07
R04 N03 N04 5.32e+03
C05 N04 N05 3.58e-07
R05 N04 N05 4.22e+02
C06 N05 N06 3.09e-07
R06 N05 N06 4.85e+01
C07 N06 N07 2.61e-07
R07 N06 N07 5.44e+00
C08 N07 N08 2.46e-07
R08 N07 N08 9.23e-01
C09 N08 N09 1.01e-07
R09 N08 N09 3.15e-01
C10 N09 N10 2.55e-08
R10 N09 N10 1.04e-01
L11 N10 N11 3.82e-11
R11 N10 N11 3.60e-01
C12 N11 N12 1.84e-09
L12 N11 N12 2.45e-11
R12 N11 N12 1.39e-01
C13 N12 Port2 3.05e-12
L13 N12 Port2 1.11e-10
R13 N12 Port2 1.53e+01
.ENDS GGM155R72A222KA37
